US06020334
4-(Amino-hydroxyimino)methylbenzoic acid methyl ester
In 200 ml of methanol were dissolved 16.5 g of 4-cyanobenzoic acid methyl ester and 7.2 g of hydroxylamine hydrochloride. To the solution was added 8.82 g of sodium hydrogencarbonate at room temperature. The mixture was heated for 3 hours under reflux. The reaction mixture was cooled, to which was added 400 ml of water. Resulting crystalline precipitate was collected by filtration, which was washed with water and ether, followed by drying under reduced pressure to afford 16.1 g of the titled compound as colorless needles.

reactant | 4-cyanobenzoic acid methyl ester | 16.5 g | COC(C1=CC=C(C=C1)C#N)=O | C9H7NO2
reactant | hydroxylamine hydrochloride | 7.2 g | Cl.NO
reactant | sodium hydrogencarbonate | 8.82 g | C(O)([O-])=O.[Na+]
reactant | water | 400 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 4-(Amino-hydroxyimino)methylbenzoic acid methyl ester | 16.1 g | COC(C1=CC=C(C=C1)C=NON)=O | C9H10N2O3
